US05393755
cis-5,6a,7,8,9,9a-Hexahydro-2,3,5-trimethylcyclopent[4,5]imidazo[2,1-b]purin-4(3H)-one:
By using cis-5,6a,7,8,9,9a-hexahydro-2,5dimethylcyclopent[4,5]imidazo[2,1-b]purin-4(3H)-one hydrochloride, and methyl iodide instead of 4-chlorobenzyl chloride in accordance with Example 21, the title compound is obtained.

reactant | cis-5,6a,7,8,9,9a-hexahydro-2,5dimethylcyclopent[4,5]imidazo[2,1-b]purin-4(3H)-one hydrochloride | Cl.CC1=NC=2N3C(N(C(C2N1)=O)C)=N[C@H]1[C@@H]3CCC1
reactant | methyl iodide | CI | CH3I
product | cis-5,6a,7,8,9,9a-Hexahydro-2,3,5-trimethylcyclopent[4,5]imidazo[2,1-b]purin-4(3H)-one | CC1=NC=2N3C(N(C(C2N1C)=O)C)=N[C@H]1[C@@H]3CCC1 | C13H17N5O
